US08278318B2
Step 2: 5-{3-chloro-4-[(5S)-2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]phenyl}-N-ethylpyridine-2-carboxamide
To a stirred mixture of (5S)-7-(4-bromo-2-chlorophenyl)-2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-2,7-diazaspiro[4.5]decan-1-one (20 mg, 0.00004 mol), [1,1 ′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (2.0 mg), tetrakis(triphenylphosphine)palladium (1.0 mg) and potassium carbonate (14.9 mg, 0.000108 mol) in anhydrous N,N-dimethylformamide (1 mL) was added N-ethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide (14.5 mg, 0.054 mmol). The resulting reaction mixture was heated at 150° C. and stirred overnight, followed by the removal of TBS protecting group by the addition of 1.7 M of fluorosilicic acid in water (0.10 mL) and the mixture was stirred at r.t. overnight. The reaction mixture was then directly purified by RP-HPLC to afford the desired product. LC/MS m/e 511.2 (M+H)+. 1H-NMR (400 MHz, DMSO-d6): 8.92 (1H, d, J=2.3 Hz), 8.84 (1H, t, J=5.9 Hz), 8.26 (1H, dd, J=8.2, 2.3 Hz), 8.06 (1H, d, J=8.2 Hz), 7.89 (1H, d, J=2.2 Hz), 7.74 (1H, dd, J=8.5, 2.2 Hz), 7.30 (1H, t, J=8.5 Hz), 4.39 (1 H, d, J=3.1 Hz), 3.80 (1H, m), 3.72 (1H, m), 3.24-3.44 (5H, m), 3.01 (1H, d, J=11.4 Hz), 2.63-2.74 (2H, m), 2.40-2.53 (1H, m), 1.64-1.91 (8H, m), 1.41-1.53 (3H, m), 1.20-1.32 (2H, m), 1.13 (3H, t, J=7.2 Hz).

reactant | (5S)-7-(4-bromo-2-chlorophenyl)-2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | 0.00004 mol, 20 mg | BrC1=CC(=C(C=C1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O[Si](C)(C)C(C)(C)C)CCC1)Cl | C26H40BrClN2O2Si
reactant | dichloromethane | 2.0 mg | ClCCl | CH2Cl2
reactant | potassium carbonate | 0.000108 mol, 14.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide | 0.054 mmol, 14.5 mg | C(C)NC(=O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 1.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{3-chloro-4-[(5S)-2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]phenyl}-N-ethylpyridine-2-carboxamide | ClC=1C=C(C=CC1N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CCC1)C=1C=CC(=NC1)C(=O)NCC | C28H35ClN4O3
